US07531553B2
Step A: 4-Benzyloxy-3-chlorophenol
To a solution of 4-benzyloxy-3-chlorobenzaldehyde (4 g, 16.2 mmol) in CH2Cl2 (65 mL), m-CPBA (3.63 g, 77% max, 21.05 mmol) was added and stirred at RT for 5 days. The mixture was washed with a Na2S2O3 solution, then NaHCO3 (sat), and evaporated. The residue was suspended in MeOH (150 mL), NaOMe (0.5 M in MeOH, 60 mL) was added and the mixture was stirred for 1 h. The mixture was concentrated, and the residue was dissolved in water, and extracted with Et2O/EtOAc. The aqueous layer was acidified, and extracted with EtOAc. The combined organic portions were dried with Na2SO4, filtered and evaporated. The mixture was purified by column chromatography using CH2Cl2 as the eluent to yield an off-white solid. MS(MH+)=NA; Calc'd 361.09 for C22H16ClNO2.

reactant | 4-benzyloxy-3-chlorobenzaldehyde | 16.2 mmol, 4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Cl | C14H11ClO2
reactant | m-CPBA | 21.05 mmol, 3.63 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 65 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzyloxy-3-chlorophenol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)O)Cl | C13H11ClO2
